US07129249B2
Methyl 3-(2-nitro-1H-imidazol-1-yl)-N-trityl-L-alaninate
Di-isopropylazodicarboxylate (1.3 mL, 6.6 mmol) was added dropwise to a solution of 2-nitroimidazole (1.0 g, 9 mmol), N-trityl-L-serine methyl ester (2.0 g, 6 mmol) and triphenylphosphine (1.73 g, 6.6 mmol) in THF (100 mL). The reaction was stirred at ambient temperature for approximately 5 hours The volatiles were removed by evaporation under reduced pressure and the residue purified by column chromatography (EtOAc:isohexane 1:19) to afford the title compound (1.2 g, 44%) as a white solid.

reactant | 2-nitroimidazole | 9 mmol, 1.0 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | N-trityl-L-serine methyl ester | 6 mmol, 2.0 g | COC([C@@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CO)=O | C23H23NO3
reactant | triphenylphosphine | 6.6 mmol, 1.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Methyl 3-(2-nitro-1H-imidazol-1-yl)-N-trityl-L-alaninate | 1.2 g, 44% | [N+](=O)([O-])C=1N(C=CN1)C[C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC | C26H24N4O4
